US05811432
C. 6-Fluoro-4-azaoxindole
The mixture of 2-bis(ethoxycarbonyl)methyl-5-fluoro-3-nitropyridine and diethyl malonate was dissolved in ethanol (100 mL) and added to a suspension of 50% Raney nickel in water (7.8 g) diluted with ethanol (150 mL). The mixture was hydrogenated in a Parr shaker at 3 atmospheres pressure overnight and then filtered through diatomaceous earth (Celite (trademark)) to remove the catalyst. The solvent was removed in vacuo to leave a mixture of 3-amino-2-bis(ethoxycarbonyl)methyl-5-fluoropyridine and diethyl malonate as an oil. The mixture containing 3-amino-2-bis(ethoxycarbonyl)methyl-5-fluropyridine and diethyl malonate was taken up in 6N HCl solution (280 mL) and heated at reflux for 3 hours. After removing the aqueous acid in vacuo, the residue was taken up in water and again concentrated to leave a solid. This was taken up in dry ethanol and concentrated two times to obtain the title compound as a light green solid (4.07 g) which was triturated with hot ethyl acetate and dried in the air. Although somewhat impure by NMR this material was used in directly in the next step without further purification.

reactant | 2-bis(ethoxycarbonyl)methyl-5-fluoro-3-nitropyridine | C(C)OC(=O)C(C1=NC=C(C=C1[N+](=O)[O-])F)C(=O)OCC | C12H13FN2O6
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-amino-2-bis(ethoxycarbonyl)methyl-5-fluoropyridine | NC=1C(=NC=C(C1)F)C(C(=O)OCC)C(=O)OCC | C12H15FN2O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | 7.8 g | O | H2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | HCl | 6N, 280 mL | Cl | ClH
product | 6-Fluoro-4-azaoxindole | 4.07 g | FC1=CN=C2CC(NC2=C1)=O | C7H5FN2O
